* C:\Users\phili\Desktop\Travaux\S6\App2\Git\App2S6\app2depart.asc
Q1a N012 Vm N014 0 2N3904
Q1b N013 Vp N016 0 2N3904
Q2b Vo1 VBB N013 0 2N3904
Q2a N008 VBB N012 0 2N3904
Q3a N008 N006 N004 0 2N3906
Q4 0 N008 N006 0 2N3906
Q3b Vo1 N006 N005 0 2N3906
Rz1a VCC N004 .0001
Rz1b VCC N005 .0001
Vin N017 0 SINE(0 1 10k 0 0 0) AC 1 0
Vpola VCC 0 15
Vpolb 0 VEE 15
Q5b Vo2 N010 N009 0 2N3906
Rta TP_N Vout .05
Rtb Vout TP_P .05
RL 0 Vout 10
Q9 GA_N N011 GA_P 0 2N3904
RpV1 GA_N N011 .0001
RpV2 N011 GA_P 1Meg
Q8 VEE Vo2 GA_P 0 2N3906
CBV GA_N GA_P 1f
Q5a 0 Vo1 N010 0 2N3906
Rc2 Vo2 VEE 1Meg
CBE VCC N007 1f
Rf Vm Vout 1Meg
Rm 0 Vm 1Meg
Rs Vp N017 .0001
Rd2a VCC N007 .0001
RzE1 N019 VEE .0001
Q6a N015 N018 N019 0 2N3904
Q6b N018 N018 N020 0 2N3904
RzE2 N020 VEE .0001
Rpol N003 N018 1Meg
RzC2 VCC N002 .0001
RzC1 VCC N001 .0001
Q7a N003 N003 N001 0 2N3906
Q7b GA_N N003 N002 0 2N3906
RpBb VBB 0 .0001
RpBa VCC VBB 1Meg
CBB VBB 0 1f
Rd1b N016 N015 .0001
Rd1a N015 N014 .0001
Rd2b N007 N009 1Meg
CC Vo1 N008 1f
CL Vout 0 1f
Cf Vm Vout 1f
XM1 VCC GA_N TP_N DMC3021LK4_N
XM2 VEE GA_P TP_P DMC3021LK4_P
.model NPN NPN
.model PNP PNP
.lib C:\Users\phili\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
;.ac dec 101 1 10meg
;.tran .01
.lib DMC3021LK4.lib
.lib DMC3021LK4.lib
.backanno
.end
